US05304565
6-n-Butyl-3-[[2'-(N-methoxymethyltetrazol-5-yl)biphenyl-4-yl]methyl]-4(3H)-quinazolinone
A mixture of 6-n-butyl-4H-3,1-benzoxazin-4-one (1.4 g, 6.89 mmol) and 5-(4'-aminomethylbiphenyl-2-yl)-N-methoxymethyltetrazole (2.85 g, ca. 9.65 mmol) in xylene (50 ml) was heated under reflux for 8 hours while water was removed by a Dean-Stark trap. After cooling, the reaction mixture was concentrated in vacuo. The resulting residue was purified by flash column chromatography on silica gel. The column was eluted with chloroform-ethyl acetate (1% to 10%) to give 1.44 g (43.6%) of the title compound as a colorless crystal.

reactant | 6-n-butyl-4H-3,1-benzoxazin-4-one | 6.89 mmol, 1.4 g | C(CCC)C=1C=CC2=C(C(OC=N2)=O)C1 | C12H13NO2
reactant | 5-(4'-aminomethylbiphenyl-2-yl)-N-methoxymethyltetrazole | ca. 9.65 mmol, 2.85 g | NCC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1COC | C16H17N5O
reactant | water | O | H2O
solvent | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 6-n-Butyl-3-[[2'-(N-methoxymethyltetrazol-5-yl)biphenyl-4-yl]methyl]-4(3H)-quinazolinone | 1.44 g, 43.6% | C(CCC)C=1C=C2C(N(C=NC2=CC1)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1COC)=O | C28H28N6O2
